US08202873B2
4-(3,5-Dimethyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3′-(4-fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride
Dissolve 3′-(4-fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.200 g, 0.774 mmol) in DCE (10 mL). Add 3,5-dimethyl-1-phenylpyrazole-4-carboxaldehyde (0.186 g, 0.929 mmol), and stir at room temperature for 10 min. Add sodium triacetoxyborohydride (0.247 g, 1.16 mmol) followed by acetic acid (47 μL, 0.813 mmol). Stir at room temperature for 18 hr. Purify via SCX chromatography, followed by silica gel chromatography, eluting with 0:100 to 10:90 methanol:DCM, followed by reverse phase chromatography to give the free base of the title compound (221 mg, 65%). Dissolve the free base (0.099 g, 0.225 mmol) in methanol and add a solution of ammonium chloride (0.012 g, 0.225 mmol) in a minimal volume of methanol. Shake for 1 hr. at room temperature and concentrate to give the title compound (108 mg, 100%). MS (ES): m/z=443 [M+H]+.

reactant | 3′-(4-fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.774 mmol, 0.200 g | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | C14H15FN4
reactant | 3,5-dimethyl-1-phenylpyrazole-4-carboxaldehyde | 0.929 mmol, 0.186 g | CC1=NN(C(=C1C=O)C)C1=CC=CC=C1 | C12H12N2O
reactant | sodium triacetoxyborohydride | 1.16 mmol, 0.247 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.813 mmol, 47 μL | C(C)(=O)O | C2H4O2
reactant | DCE | 10 mL | ClCCCl | C2H4Cl2
product | 4-(3,5-Dimethyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3′-(4-fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride | 221 mg, 65% | Cl.CC1=NN(C(=C1CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)F)C)C1=CC=CC=C1 | InChI=1S/C26H27FN6.ClH/c1-19-24(20(2)33(30-19)23-6-4-3-5-7-23)18-31-14-16-32(17-15-31)26-25(28-12-13-29-26)21-8-10-22(27)11-9-21;/h3-13H,14-18H2,1-2H3;1H
